US03966956
b. [1-(p-Chlorobenzoyl)-5-methoxy-2-methyl-3-indoleacetoxy]-acetic acid
50.6 g (0.1 mol) of [1-(p-chlorobenzoyl)-5-methoxy-2-methyl-3-indoleacetoxy]-benzyl acetate were hydrogenated in 300 ml of absolute dimethylformamide in the presence of 5 g of 5% palladium carbon at 20°C within 15 minutes, with absorption of the calculated quantity of hydrogen. About 200 ml of water were added to the hydrogenation product, filtered through kieselguhr, until clouding started to occur and the solution was allowed to crystallise at 5°C. The crystallisate was suction-filtered, washed with water and dried under vacuum. The yield of [1-(p-chlorobenzoyl)-5-methoxy-2-methyl-3-indoleacetoxy]-acetic acid amounted to 39 g which corresponds to 94% of the theoretical yield. The compound melted at 148°-149°C as determined on the Mettler melting point apparatus.

reactant | [1-(p-chlorobenzoyl)-5-methoxy-2-methyl-3-indoleacetoxy]-benzyl acetate | 0.1 mol, 50.6 g | C(C)(=O)OC(C1=CC=CC=C1)OC(CC1=C(N(C2=CC=C(C=C12)OC)C(C1=CC=C(C=C1)Cl)=O)C)=O | C28H24ClNO6
reactant | hydrogen | [H][H] | H2
reactant | water | 200 ml | O | H2O
reactant | dimethylformamide | 300 ml | CN(C=O)C | C3H7NO
catalyst | palladium carbon | 5 g | [C].[Pd]
product | [1-(p-Chlorobenzoyl)-5-methoxy-2-methyl-3-indoleacetoxy]-acetic acid | ClC1=CC=C(C(=O)N2C(=C(C3=CC(=CC=C23)OC)CC(=O)OCC(=O)O)C)C=C1 | C21H18ClNO6
